US05932598
N-[[4-[3-(3-Fluorophenyl)-5-methylisoxazol-4-yl]phenyl]sulfonyl]acetamide
Acetic anhydride (1.01 g, 9.39 mmol) and triethylamine (0.401 g, 3.97 mmol) were added to a solution of 4-[5-methyl-3-(3-fluorophenyl)isoxazol-4-yl]benzenesulfonamide (1.10 g, 3.31 mmol) and N,N-dimethylpyridine (0.202 g) in dry tetrahydrofuran. After stirring for 18 hours at room temperature, the reaction mixture was concentrated. The residue was dissolved in ethyl acetate, washed successively with 1N hydrochloric acid and brine, dried over anhydrous MgSO4 and concentrated to afford 1.0 g (81%) of the desired product as a crystalline product: mp 144-145° C. 1H NMR (CDCl3) 8.00 (d, 2H, J=7.3 Hz), 7.30-7.27 (m, 4H), 7.10-7.06 (m, 3H), 2.46 (s, 3H), 1.99 (s, 3H). Anal. Calc'd for C18H15FN2O4S: C, 57.75; H, 4.04; N, 7.48. Found: C, 57.84; H, 4.06; N, 7.49.

reactant | Acetic anhydride | 9.39 mmol, 1.01 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 3.97 mmol, 0.401 g | C(C)N(CC)CC | C6H15N
reactant | 4-[5-methyl-3-(3-fluorophenyl)isoxazol-4-yl]benzenesulfonamide | 3.31 mmol, 1.10 g | CC1=C(C(=NO1)C1=CC(=CC=C1)F)C1=CC=C(C=C1)S(=O)(=O)N | C16H13FN2O3S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[[4-[3-(3-Fluorophenyl)-5-methylisoxazol-4-yl]phenyl]sulfonyl]acetamide | 1.0 g, 81% | FC=1C=C(C=CC1)C1=NOC(=C1C1=CC=C(C=C1)S(=O)(=O)NC(C)=O)C | C18H15FN2O4S
